US07435823B2
Step (e) Preparation of N-(3-chloro-4-fluorophenyl)-6-((6-(methoxy)-3-pyridinyl)oxy)-1-naphthalenecarboxamide
To a stirred solution of 6-(6-methoxypyridin-3-yloxy)-1-naphthoyl chloride hydrochloride salt (225 mg, 0.64 mmol) and DIPEA (0.22 mL, 1.285 mmol) in DCM (5 mL) at RT was added 3-chloro-4-fluoroaniline (93.5 mg, 0.64 mmol). After stirring for 16 h, the reaction mixture was directly purified by silica gel chromatography (elution hexanes/EtOAC: 85/15 to 35/65) to give the title compound as a tan solid. MS (ESI, pos. ion) m/z: 423.1 (M+1). Mass Calc'd for C23H16ClFN2O3: 422.84.

reactant | 6-(6-methoxypyridin-3-yloxy)-1-naphthoyl chloride hydrochloride salt | 0.64 mmol, 225 mg | Cl.COC1=CC=C(C=N1)OC=1C=C2C=CC=C(C2=CC1)C(=O)Cl
reactant | DIPEA | 1.285 mmol, 0.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-chloro-4-fluoroaniline | 0.64 mmol, 93.5 mg | ClC=1C=C(N)C=CC1F | C6H5ClFN
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(3-chloro-4-fluorophenyl)-6-((6-(methoxy)-3-pyridinyl)oxy)-1-naphthalenecarboxamide | ClC=1C=C(C=CC1F)NC(=O)C1=CC=CC2=CC(=CC=C12)OC=1C=NC(=CC1)OC | C23H16ClFN2O3
